US07825114B2
Preparation of 1-[5-Cyano-4-(4-nitro-phenyl)-6-oxo-1,6-dihydro-pyridin-2-yl]-cyclo-propanecarboxylic acid ethyl ester
In analogy to GP 1, reaction of 28.9 g ammonium acetate (375 mmol, 8 eq.), 5 ml ethyl cyanoacetate (47.3 mmol, 1 eq.), 7.32 g 1-acetyl-cyclopropanecarboxylic acid ethyl ester (47 mmol, 1 eq.), and 7.08 g 4-nitrobenzaldehyde (47 mmol, 1 eq.) yielded 7.2 g product (43% yield).

reactant | ammonium acetate | 375 mmol, 28.9 g, 8 eq. | C(C)(=O)[O-].[NH4+]
reactant | ethyl cyanoacetate | 47.3 mmol, 5 ml, 1 eq. | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1-acetyl-cyclopropanecarboxylic acid ethyl ester | 47 mmol, 7.32 g, 1 eq. | C(C)OC(=O)C1(CC1)C(C)=O | C8H12O3
reactant | 4-nitrobenzaldehyde | 47 mmol, 7.08 g, 1 eq. | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 1-[5-Cyano-4-(4-nitro-phenyl)-6-oxo-1,6-dihydro-pyridin-2-yl]-cyclo-propanecarboxylic acid ethyl ester | 7.2 g, 43% yield | C(C)OC(=O)C1(CC1)C=1NC(C(=C(C1)C1=CC=C(C=C1)[N+](=O)[O-])C#N)=O | C18H15N3O5
